US06924278B2
To a stirred suspension of 2-(3,4-methylenedioxybenzyl)piperazine dihydrochloride (104 mg) and potassium carbonate (196 mg) in N,N-dimethylformamide (4 ml) was added 4-(4-chloro-2-butynyl)-3,3-dimethylmorpholine hydrochloride (84.5 mg) at 5° C. under nitrogen atmosphere and the mixture was gradually warmed to room temperature over night. To the above stirred suspension was added 3,5-bis(trifluoromethyl)benzoyl chloride (98.2 mg) at 5° C. and the mixture was stirred for 1 hour at this temperature. The mixture was extracted with ethyl acetate and the extract was washed with water, and dried over magnesium sulfate. The usual work up followed by flash chromatography on silica gel with a mixture of dichloromethane and methanol (50:1) gave 1-[3,5-bis-(trifluoromethyl)benzoyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]-2-(3,4-methylenedioxybenzyl)piperazine, which was dissolved in ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate to give 1-[3,5-bis-(trifluoromethyl)benzoyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]-2-(3,4-methylenedioxybenzyl)piperazine dihydrochloride (107 mg) as a powder.

reactant | 2-(3,4-methylenedioxybenzyl)piperazine dihydrochloride | 104 mg | Cl.Cl.C1OC=2C=C(CC3NCCNC3)C=CC2O1
reactant | potassium carbonate | 196 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(4-chloro-2-butynyl)-3,3-dimethylmorpholine hydrochloride | 84.5 mg | Cl.ClCC#CCN1C(COCC1)(C)C
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 98.2 mg | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-[3,5-bis-(trifluoromethyl)benzoyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]-2-(3,4-methylenedioxybenzyl)piperazine | FC(C=1C=C(C(=O)N2C(CN(CC2)CC#CCN2C(COCC2)(C)C)CC2=CC3=C(C=C2)OCO3)C=C(C1)C(F)(F)F)(F)F | C31H33F6N3O4
